US07442791B2
200 mg (0.54 mmol) of trans-4-[(4-trifluoromethyl-benzenesulfonylamino)-methyl]-cyclohexanecarboxylic acid, 210 mg (1.09 mmol, 2 eq) of EDCI, 221 mg (2.2 mmol, 4 eq) of Et3N and 274 mg (2.74 mmol, 5 eq) of 1-methyl-piperazine were dissolved in 5 mL of CH2Cl2. After 70 h reaction at RT, 1 mL of H2O was added and the reaction mixture was stirred vigorously for 1 h. The organic phase was separated, the aqueous phase was extracted with 10 mL of CH2Cl2 and the combined organic phases were washed with H2O and brine. After drying over anhydrous Na2SO4, the organic phase was evaporated. The residue was chromatographed on silicagel with CH2Cl2:MeOH:25% NH4OH (9:1:0.1) as eluent. 120 mg (49%) of trans-N-[4-(4-methyl-piperazine-1-carbonyl)-cyclohexylmethyl]-4-trifluoromethyl-benzenesulfonamide were obtained as colorless amorphous solid, MS: 448 (MH+).

reactant | trans-4-[(4-trifluoromethyl-benzenesulfonylamino)-methyl]-cyclohexanecarboxylic acid | 0.54 mmol, 200 mg | FC(C1=CC=C(C=C1)S(=O)(=O)NC[C@@H]1CC[C@H](CC1)C(=O)O)(F)F | C15H18F3NO4S
reactant | EDCI | 1.09 mmol, 210 mg, 2 eq | CCN=C=NCCCN(C)C | C8H17N3
reactant | Et3N | 2.2 mmol, 221 mg, 4 eq | CCN(CC)CC | C6H15N
reactant | 1-methyl-piperazine | 2.74 mmol, 274 mg, 5 eq | CN1CCNCC1 | C5H12N2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 1 mL | O | H2O
product | trans-N-[4-(4-methyl-piperazine-1-carbonyl)-cyclohexylmethyl]-4-trifluoromethyl-benzenesulfonamide | 120 mg, 49% | CN1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)CNS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C20H28F3N3O3S
